US04871633
24 g of 3,6-dimethylpyridazine and 60 g of p-nitrobenzenealdehyde are dissolved in one liter of acetic acid anhydride, which is heated and refluxed to obtain 33 g of 3,6-di(p-nitrostyryl)pyridazine (K').

reactant | 3,6-dimethylpyridazine | 24 g | CC=1N=NC(=CC1)C | C6H8N2
reactant | p-nitrobenzenealdehyde | 60 g | [N+](=O)([O-])C1=CC=C(C=C1)C=O | C7H5NO3
solvent | acetic acid anhydride | one liter | C(C)(=O)OC(C)=O | C4H6O3
product | 3,6-di(p-nitrostyryl)pyridazine | 33 g | [N+](=O)([O-])C1=CC=C(C=CC=2N=NC(=CC2)C=CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C20H14N4O4
